US09290485B2
b) Tert-butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate
tert-butyl 5-cyano-4,6-dimethylpyridin-2-ylcarbamate (8 g) was hydrogenated by means of raney-nickel (18.9 g) in MeOH/NH3 aq. 10% (100 ml). The reaction mixture was filtered through hyflo, washed with MeOH and evaporated under reduced pressure. The crude was solved in EA (100 ml) and heptane 80 (ml) was added. The solution was partly evaporated to a volume of approx. 80 ml. The precipitated solid was filtrated to afford the title compound. HPLC/MS (Method F): RtF=0.82 min, [M+H]+=252.3.

reactant | tert-butyl 5-cyano-4,6-dimethylpyridin-2-ylcarbamate | 8 g | C(#N)C=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C13H17N3O2
solvent | MeOH NH3 | 100 ml | CO.N
catalyst | raney-nickel | 18.9 g | [Ni] | Ni
product | Tert-butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate | NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C13H21N3O2
